US04592866
5-Bromo-2-chloro-3-pyridinecarboxylic acid
To 15 g (0.069 mole) of 5-bromo-2-hydroxy nicotinic acid was added 75 ml of thionyl chloride and 3 ml of dimethylformamide. The mixture was heated to reflux for 30 minutes. After cooling, the excess thionyl chloride was removed by rotary evaporation and the residue poured into water (1 liter) with vigorous agitation. The precipitate was collected and the mother liquor condensed to 1/2 the volume, yielding additional precipitate. The precipitates were combined and crystallized from toluene giving 6 g (37%) of material. The product was recrystallized from toluene, m.p. 174°-177° C.

reactant | 5-bromo-2-hydroxy nicotinic acid | 0.069 mole, 15 g | BrC=1C=NC(=C(C(=O)O)C1)O | C6H4BrNO3
reactant | thionyl chloride | 75 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 5-Bromo-2-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C(=NC1)Cl)C(=O)O | C6H3BrClNO2
